US08895582B2
To a mixture of (S)-5-azido-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4,4-difluoropentyl 3-(3-fluorophenyl)isoxazol-5-ylcarbamate (0.35 g, 0.6 mmol) in MeOH (2 mL), was added 10% Pd/C (0.1 g). The mixture was transferred to an autoclave reactor, charged with 10 psi of hydrogen, and stirred for 10 mM. The catalyst was filtered off and the filtrate was concentrated. The residue was purified on RP-HPLC using a mixture of acetonitrile and H2O with 0.1% TFA. The elute was washed with saturated NaHCO3. The organic layer was concentrated to give (S)-5-amino-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4,4-difluoropentyl 3-(3-fluorophenyl)isoxazol-5-ylcarbamate (0.18 g, 54%) as a white solid. LRMS (M+H+) m/z 558.1.

reactant | (S)-5-azido-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4,4-difluoropentyl 3-(3-fluorophenyl)isoxazol-5-ylcarbamate | 0.6 mmol, 0.35 g | FC=1C=C(C=CC1)C1=NOC(=C1)NC(OC[C@H](CC(CN=[N+]=[N-])(F)F)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C24H22ClF4N7O4
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 2 mL | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | (S)-5-amino-2-(3-(2-chloro-3-fluorobenzyl)-1-methylureido)-4,4-difluoropentyl 3-(3-fluorophenyl)isoxazol-5-ylcarbamate | 0.18 g, 54% | FC=1C=C(C=CC1)C1=NOC(=C1)NC(OC[C@H](CC(CN)(F)F)N(C(=O)NCC1=C(C(=CC=C1)F)Cl)C)=O | C24H24ClF4N5O4
